US06174898B1
1-(2-((2,2-Diphenylethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
1-(2-((2,2-Diphenylethenyl)oxy)ethyl)-1,2,5,6-tetrahydro3-pyridinecarboxylic acid methyl ester (4.33 g, 0.0115 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (50 ml) and 10 N sodium hydroxide solution (11.5 ml) was introduced, followed by water (5 ml). The solution was stirred at room tempeature for 2.5 h and stored at 4° C. for 18 h. 2 N hydrochloric acid solution was added until the pH 2, and the mixture was extracted with dichloromethane (3×60 ml). The combined extracts was dried (MgSO4) and evaporated to give a foam (4.24 g) which was crystallized from 2-propanol to provide the compound (2.32 g, 52%) as a white solid.

reactant | 1-(2-((2,2-Diphenylethenyl)oxy)ethyl)-1,2,5,6-tetrahydro3-pyridinecarboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCOC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25NO3
reactant | sodium hydroxide | 10 N, 11.5 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-((2,2-Diphenylethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 4.24 g | Cl.C1(=CC=CC=C1)C(=COCCN1CC(=CCC1)C(=O)O)C1=CC=CC=C1 | InChI=1S/C22H23NO3.ClH/c24-22(25)20-12-7-13-23(16-20)14-15-26-17-21(18-8-3-1-4-9-18)19-10-5-2-6-11-19;/h1-6,8-12,17H,7,13-16H2,(H,24,25);1H
